US05158946
7β-[2-(2-Aminothiazol-4-yl)-2-(Z)-hydroxyiminoacetamido]-3-(2,5-dihydro-2-oxofuran-4-ylthiomethyl)ceph-3-em-4-carboxylic acid
Diphenylmethyl 3-(2,5-dihydro-2-oxofuran-4-ylthiomethyl)-7β-[2-(2-tritylaminothiazol-4-yl)-2-(Z)-trityloxyiminoacetamido]ceph-3-em-4-carboxylate (744 mg) was dissolved in 98-100% formic acid (13 ml) and 1N hydrochloric acid (0.65 ml) and water (0.65 ml) were added. The mixture was stirred at room temperature for 30 mins and then concentrated hydrochloric acid (0.52 ml) was added. After stirring for a further hour the solvents were removed on a rotary evaporator. A mixture of toluene and tetrahydrofuran was evaporated from the residue twice, and the residue triturated with ether. The solid was filtered off, and washed with ether. The solid was suspended in water and the pH adjusted to 2.6 with 0.1N sodium hydroxide, the mixture was stirred for a further 30 mins, occasionally adjusting the pH to 2.6. The solid was then filtered off, washed with cold water and dried under vacuum to give the title compound (128 mg) as an off-white solid. υmax (KBr) 1773, 1735, 1670, and 1629cm-1. δH [(CD3)2SO] 3.49 (1H, d, J 18.0Hz), 3.72 (1H, d, J 18.1Hz), 4.10 (1H, d, J 13.2Hz), 4.18 (1H, d, J 13.2Hz), 4.97 (2H, s), 5.18 (1H, d, J 4.8Hz), 5.79 (1H, dd, J 4.8 and 8.0Hz), 6.11 (1H, s), 6.67 (1H, s), 9.51 (1H, d, J 8.1Hz), 11.40 (1H, s). [mass spectrum: +ve ion (thioglycerol) MH+ 498].

reactant | Diphenylmethyl 3-(2,5-dihydro-2-oxofuran-4-ylthiomethyl)-7β-[2-(2-tritylaminothiazol-4-yl)-2-(Z)-trityloxyiminoacetamido]ceph-3-em-4-carboxylate | 744 mg | O=C1OCC(=C1)SCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(\C(=N/OC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)\C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)=O | C68H53N5O7S3
reactant | hydrochloric acid | 1N, 0.65 ml | Cl | ClH
reactant | water | 0.65 ml | O | H2O
reactant | hydrochloric acid | 0.52 ml | Cl | ClH
solvent | formic acid | 13 ml | C(=O)O | CH2O2
product | 7β-[2-(2-Aminothiazol-4-yl)-2-(Z)-hydroxyiminoacetamido]-3-(2,5-dihydro-2-oxofuran-4-ylthiomethyl)ceph-3-em-4-carboxylic acid | 128 mg | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=CC(OC2)=O)C(=O)O)C1=O)=N/O | C17H15N5O7S3
